US07902375B2
AA2) 2-Fluoro-1-methanesulfonyl-4-(2-nitro-propenyl)-benzene
A stirred mixture of 3-fluoro-4-methanesulfonyl-benzaldehyde (Example AA1) (24 g, 0.119 mol), nitroethane (70 ml, 0.97 mol) and ammonium acetate (2.75 g, 35 mmol) is heated at reflux under argon for 24 hours. The mixture is concentrated to give an oil which is dissolved in chloroform (200 ml) and washed with water (2×200 ml), followed by brine (100 ml). The organic extract is dried (MgSO4), filtered and the solvent removed to give the product as an orange oil. This was used immediately in the next step.

reactant | 3-fluoro-4-methanesulfonyl-benzaldehyde | 0.119 mol, 24 g | FC=1C=C(C=O)C=CC1S(=O)(=O)C | C8H7FO3S
reactant | nitroethane | 0.97 mol, 70 ml | [N+](=O)([O-])CC | C2H5NO2
reactant | ammonium acetate | 35 mmol, 2.75 g | C(C)(=O)[O-].[NH4+]
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Fluoro-1-methanesulfonyl-4-(2-nitro-propenyl)-benzene | FC1=C(C=CC(=C1)C=C(C)[N+](=O)[O-])S(=O)(=O)C | C10H10FNO4S
